US04186135
209 g of 34% ammonia and 97 g of 7-chlorosulfonyl-1,4-benzodioxane-5-carboxylic acid were introduced into a balloon flask provided with an agitator and a thermometer at a temperature of 5°-10° C. The mixture was agitated at ambient temperature and then the precipitate was dissolved in 415 cm3 of water. The solution was filtered and treated with 140 cm3 of concentrated hydrochloric acid. The crystals were dried off, washed with water and dried. 78 g of 7-sulfamoyl-1,4-benzodioxane-5-carboxylic acid were obtained (M.P.: 272°-274° C.; yield: 87%).

reactant | ammonia | 209 g | N | H3N
reactant | 7-chlorosulfonyl-1,4-benzodioxane-5-carboxylic acid | 97 g | ClS(=O)(=O)C=1C=C(C2=C(OCCO2)C1)C(=O)O | C9H7ClO6S
solvent | water | 415 cm3 | O | H2O
product | 7-sulfamoyl-1,4-benzodioxane-5-carboxylic acid | 78 g, yield: 87% | S(N)(=O)(=O)C=1C=C(C2=C(OCCO2)C1)C(=O)O | C9H9NO6S
